US09169254B2
(2-{(4R,5S)-5-[2-(tert-Butyl-diphenyl-silanyloxy)-ethyl]-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy}-ethyl)-methyl-carbamic acid tert-butyl ester (82.2 mg, 0.14 mmol) was dissolved in THF (0.19 mL). TBAF (1.0 M solution in THF, 0.19 mL, 0.19 mmol) was added at 0° C. and the mixture was stirred at room temperature for one hour in a nitrogen atmosphere. Saturated aqueous ammonium chloride was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate and saturated brine, and then dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give {2-[(4R,5S)-5-(2-hydroxy-ethyl)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-ethyl}-methyl-carbamic acid tert-butyl ester (41.7 mg, 88%).

reactant | (2-{(4R,5S)-5-[2-(tert-Butyl-diphenyl-silanyloxy)-ethyl]-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy}-ethyl)-methyl-carbamic acid tert-butyl ester | 0.14 mmol, 82.2 mg | C(C)(C)(C)OC(N(C)CCOC[C@H]1OC(O[C@H]1CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)(C)C)=O | C32H49NO6Si
reactant | TBAF | 0.19 mmol, 1.0 M, 0.19 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 0.19 mL | C1CCOC1 | C4H8O
product | {2-[(4R,5S)-5-(2-hydroxy-ethyl)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-ethyl}-methyl-carbamic acid tert-butyl ester | 41.7 mg, 88% | C(C)(C)(C)OC(N(C)CCOC[C@H]1OC(O[C@H]1CCO)(C)C)=O | C16H31NO6
